US06331538B1
1-Cyclopropyl-6,8-difluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
A solution of 3-tert-butoxy-1-cyclopropyl-6,8-difluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example U-3, 0.52 g) in TFA (10 mL) was allowed to stir overnight at ambient temperature. The mixture was then concentrated and the product triturated with diethyl ether (repeated three times). The solid was filtered and washed with diethyl ether and dried to provide 0.35 g of the title compound as a solid, mp 228-230° C.

reactant | 3-tert-butoxy-1-cyclopropyl-6,8-difluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.52 g | C(C)(C)(C)ON1C(N(C2=C(C(=C(C=C2C1=O)F)N1CCCC1)F)C1CC1)=O | C19H23F2N3O3
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-Cyclopropyl-6,8-difluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.35 g | C1(CC1)N1C(N(C(C2=CC(=C(C(=C12)F)N1CCCC1)F)=O)O)=O | C15H15F2N3O3
